Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left hip pain
 
Major Surgical or Invasive Procedure:
___- ___ biopsy of left hip/iliopsoas bursa

 
History of Present Illness:
___ year old female with history of hypertension who presents 
with ___ days of left hip pain and inability to bear weight. The 
pain is in a band-like distribution from the anterior to 
posterior hip. She denies any trauma or spontaneous bruising. 
She presented to ___ where she was found to have SBP 98, 
which normalized without any intervention. Labs notable for WBC 
13.6, CRP 16.7. CT chest with biapical pleural and parenchymal 
disease (Rt>Lt) with few air bronchograms with a small focal 
area of RUL patchyconsolidation. CT abd/pelvis showed anterior 
hip effusion. Quantiferon gold was sent and the patient was 
transferred to ___ for further management.  
 In the ___, initial VS were 97.8 71 127/64 18 98% RA.  
 - Labs: WBC 11.3, H/H 11.8/35.4, Na 131, Cr 0.9. CRP 152.1, 
lactate 1.0.  
 - Pelvis XR: No acute fracture.  
 - Ortho c/s: Lt trochanteric bursitis which is subjectively 
improving. Deferred aspiration.  
 - Patient was not given any medications.  
 Vitals prior to transfer: 99.8 81 122/67 18 96% RA.  
 On arrival to the floor, patient reports that her hip pain has 
mostly resolved with oral analgesics. She reports onset of hip 
pain since last ___, worse with weight bearing and laying 
on that side. She denies any remote or recent trauma, associated 
weakness or numbness, fevers/chills, other arthralgias. ROS 
positive for one episode of generalized "weakness" on ___ 
while walking during ___ ___. She felt diaphoretic 
and had to sit down/go outside with improvement in her symptoms. 
No associated dyspnea, chest pain, changes in vision, or LOC. No 
further episodes. She also denies any cough, dyspnea, previous 
exposure to TB, imprisonment/homelessness, or choking on food.  

 
Past Medical History:
- Hypertension  
- Hyperlipidemia  
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - 99.5 109/53 76 16 94RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
MSK: TTP of left greater trochanter. She points to groin as area 
of pain. No pain with active/passive hip ROM. No other tender, 
warm, or edematous joints. No TTP of spine.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ left hip flexor strength ___ pain. 
___ right hip flexor. Light touch sensation intact. ___ ankle 
dorsi/plantar flexion  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
VS: T 98.0, 120/62, 78, 18, 98% on RA
GENERAL: NAD, AOx3, very pleasant
HEENT: NCAT, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
MSK: L hip NTTP, biopsy site bandaged c/d/i. No pain with 
active/passive hip ROM. No other tender, warm, or edematous 
joints. No TTP of spine.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ left hip flexor strength. ___ right 
hip flexor. Intact to light touch and pressure. ___ ankle 
dorsi/plantar flexion  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 08:50PM BLOOD WBC-11.3* RBC-3.78* Hgb-11.8 Hct-35.4 
MCV-94 MCH-31.2 MCHC-33.3 RDW-12.0 RDWSD-41.6 Plt ___
___ 08:50PM BLOOD Neuts-65.4 Lymphs-17.7* Monos-15.4* 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-7.38* AbsLymp-2.00 
AbsMono-1.74* AbsEos-0.08 AbsBaso-0.05
___ 08:20PM BLOOD Glucose-103* UreaN-24* Creat-1.0 Na-128* 
K-5.6* Cl-93* HCO3-25 AnGap-16
___ 08:50PM BLOOD SED RATE-70 
___ 08:20PM BLOOD Calcium-8.4 Phos-3.3 Mg-2.0
___ 08:20PM BLOOD CRP-154.5*
___ 09:15PM BLOOD Lactate-1.0

IMAGING:
PELVIS (AP ONLY) Study Date of ___ 9:58 ___ 
FINDINGS:    No acute fracture or dislocation is seen.  
Degenerative changes of the 
bilateral hips are noted including joint space narrowing and 
spurring.  The sacroiliac joints are preserved, and multiple 
round radiopaque densities projecting over the colon reflect 
pills as noted on the same day CT.
IMPRESSION:    No acute fracture or dislocation. 

___ IMAGING:
--CT/CHEST W/O CONTRAST Findings: There is biapical pleural and 
parenchymal disease
greatest right apex compared to the left with air bronchograms 
extending into the more consolidated apical parenchyma. 
Additionally, small focal area of patchy airspace disease in the 
right upper lobe. 4-mm noncalcified right upper lung nodule 
noted on scan image #107 through 109 of 282. Small pleural-based 
density scan image #119 through 121 of 282 No spiculated 
lesions. No cavitary lesions. No pleural or pericardial effusion 
No anterior mediastinal or hilar adenopathy Bone windows show no 
compression fracture Impression:
1. Biapical pleural and parenchymal disease right greater than 
left with a few air bronchograms. With a small focal area of 
additional right upper lobe patchy consolidation. No specific 
cavitary lesion. No spiculated lesions.
                                                                 

--CT A/P W/O IV   NO ORAL
Findings: No evidence of renal calculi. No hydronephrosis. 
Liver, spleen, pancreas, adrenal glands, gallbladder, abdominal 
aorta and iliac vessels are unremarkable. The absence of oral 
contrast load is limited evaluation of the GI tract. No evidence 
of large or small bowel obstruction. No evidence of 
diverticulitis. No ascites or free air. Bladder is empty. Uterus 
not enlarged. Bone windows show bilateral L5 spondylolysis 
without evidence of
anterior listhesis. Impression: 1. No acute intra-abdominal 
process.
Addendum: Reformatting 2 mm slices axial coronal and sagittal 
show approximately 2 cm low-density area anterior to the 
superior portion of the acetabulum in the region of the 
iliopsoas muscle consistent with fluid in the iliopsoas bursa 
and is mildly distended. The adjacent bone shows some very 
minimal cystic change without frank destruction. No definite 
intra-articular fluid by CT. 

___ L Hip Plain Films
FINDINGS: No acute fracture or dislocation is seen.  
Degenerative changes of the bilateral hips are noted including 
joint space narrowing and spurring.  The sacroiliac joints are 
preserved, and multiple round radiopaque densities projecting 
over the colon reflect pills as noted on the same day CT.
IMPRESSION:  No acute fracture or dislocation.

DISCHARGE LABS
___ 04:00PM BLOOD WBC-11.3* RBC-3.51* Hgb-11.0* Hct-33.4* 
MCV-95 MCH-31.3 MCHC-32.9 RDW-12.4 RDWSD-42.9 Plt ___
___ 07:15AM BLOOD Glucose-114* UreaN-25* Creat-0.7 Na-141 
K-4.1 Cl-106 HCO3-26 AnGap-13
___ 08:50PM BLOOD CRP-152.1*
___ 07:35AM BLOOD CRP-185.6*
___ 08:10AM BLOOD CRP-189.7*
 
Brief Hospital Course:
___ year-old female with a history of hypertension who presents 
with atraumatic left hip pain and abnormalities on chest CT as a 
transfer from ___.

# Left hip bursitis: Patient presented with non-traumatic left 
hip pain and inability to bear weight with elevated CRP. 
Orthopedics evaluated in the ___ and given exam (normal 
active/passive ROM) and point tenderness, and CT imaging, felt 
this was most consistent with trochanteric bursitis. Pain 
localized to groin, which was more suggestive of intraarticular 
etiology, and she had an elevated WBC/CRP, would was concerning 
for septic joint. Significantly improved symptoms on 
naproxen/acetaminophen which was more consistent with bursitis. 
Given persistent leukocytosis, elevated CRP and intermittent 
fever, she underwent left hip arthrocentesis on ___ to rule 
out septic joint which showed 54 WBCs, 10K RBCs and no crystals. 
Gram stain negative. Fluid culture pending at discharge. 
Ambulated with Physical Therapy on days leading up to discharge 
with no issue.

# Community acquired pneumonia/pulmonary airspace disease: chest 
x-ray in ___ noted RUL cavitary lesion and 
subsequent CT chest found R>L upper lobe consolidations. No 
respiratory symptoms to suggest acute infection, no TB risk 
factors, never lived in or traveled to ___ or 
___, no signs of immunosuppression. At 
___ reviewed imaging and differential included TB 
(negative Quantiferon Gold), prior head/neck radiation (none) 
and pneumonia (possibly eosinophilic but not typical given 
central distribution). Started on levofloxacin for 5 day course 
on ___ for CAP with plans for repeat scan in ___ weeks to 
determine resolution of findings. 

# Hypertension: Patient reported hypotensive to SBP 98 at OSH 
and improved without any intervention. Initially held home 
anti-hypertensives(lisinopril/HCTZ/atenolol) due to low/normal 
SBPs and hyponatremia (presumed secondary to HCTZ). Her 
hyponatremia resolved and SBPs were stable. Restarted atenolol 
on ___ given HR ___ and SBP 140s with careful instructions 
provided to monitor for hypotension/bradycardia.

Transitional Issues
===================
[ ] f/u joint aspirate culture
[ ] f/u blood pressure control (holding lisinopril/HCTZ given 
low-normal BPs while admitted and initial hyponatremia while 
admitted) 
[ ] check BMP to assess renal function (resolved ___ and 
hyponatremia while admitted)
[ ] check CBC at next visit to evaluate anemia (hemoglobin drop 
12.3 to 10.3 after arthrocentesis but uptrending at discharge to 
11.0)
[ ] check CRP at next visit, consider additional rheumatologic 
work-up if continuing to rise
[ ] ensure discontinuation of NSAIDs if restarting ACEi
[ ] discharged on 5-day course of levofloxacin for CAP (end 
date: ___
[ ] repeat chest CT in ___ weeks to assess interval change after 
antibiotics of upper lobe infiltrates and/or Pulmonary referral; 
also has 4mm RUL nodule which may require additional interval 
follow-up depending on repeat scan

Discharge Cr: 0.7
Discharge Hgb: 11.0
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*28 Tablet Refills:*0
3. Atenolol 50 mg PO DAILY 
4. Naproxen 375 mg PO Q12H:PRN hip pain 
RX *naproxen 375 mg 1 tablet(s) by mouth every 12 hours Disp 
#*14 Tablet Refills:*0
5. Levofloxacin 750 mg PO DAILY Duration: 4 Days 
end on ___ 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*4 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses: 
Left hip bursitis
Hypertension
Community acquired pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for evaluation and treatment of your 
hip pain. We treated you with naproxen and acetaminophen and 
your pain improved. We found a small collection of fluid in your 
hip which we sampled and tested. Preliminary results are 
negative for infection and your symptoms are likely caused by 
"bursitis" which is inflammation of the joint lining. We expect 
this will continue to improve over the next few days with pain 
medicine/anti-inflammatories.

Given your stable (and sometimes low) blood pressures, we had 
held your home blood pressure medicines while you were here but 
restarted your atenolol on the day of discharge. Please be 
vigilant about signs of low heart rate and low blood pressure 
which include dizziness (especially upon standing), fatigue, low 
energy, shortness of breath and malaise. A normal heart rate is 
between 60-100 and you can check this rate by counting the beats 
on your wrist over a minute. Please call your PCP if you notice 
any of these symptoms or if your heart rate is persistently 
below 60 beats per minute.

While you were at ___, the radiologists noticed some 
changes on your chest imaging the corresponds to the top parts 
of your lungs. We ran a test for tuberculosis which was 
negative. We believe these changes may be a result of pneumonia 
which would also explain your elevated white blood cell count. 
You will take an antibiotic called levofloxacin for 5 days to 
treat this condition. We also recommend that you have another 
scan in ___ weeks to evaluate for clearance of these findings. 
You have a lab slip for routine bloodwork that you can have 
drawn prior to your visit with Dr. ___ on ___.

You may continue to take Tylenol and naproxen for pain. We would 
recommend you start with Tylenol (as directed) and use naproxen 
only if needed as it is effective for pain relief but can be 
irritating to your stomach and kidneys.

It was a pleasure taking care of you during your stay- we wish 
you all the best!
- Your ___ Medicine Team
 
Followup Instructions:
___